US08383821B2
3-Bromo-5-(((1-(tert-butoxycarbonyl)-4-phenylpiperidin-4-yl)methoxy)methyl)benzoic acid.
Methyl 3-bromo-5-(bromomethyl)benzoate (2.1 g, 6.81 mmol) and tert-butyl 4-(hydroxymethyl)-4-phenylpiperidine-1-carboxylate (1.8 g, 6.2 mmol) were combined in dimethylformamide (21 mL) and cooled to 0° C. The reaction was treated with sodium hydride (298 mg, 12.4 mmol), stirred at 0° C. for 1 h, and at room temperature for 30 min. The reaction was cooled to 0° C. and treated lithium hydroxide monohydrate (0.54 g, 13.6 mmol). The solution was stirred at room temperature for 16 h and the solvents evaporated. The resultant residue was diluted with water (10 mL) and the pH adjusted to ca. 1 with 1 N hydrochloric acid. The resultant white suspension was stored at 4° C. overnight and the product was collected by filtration, washed with a small amount of water, and dried in vacuo for several hours to afford 2.4 g (70%) as a white powder. LC/MS: tR=3.33 min, 506.20 (MH)+. (Phenomenex C18 4.6×50 mm, 10% MeOH/90% H2O/0.1% TFA→90% MeOH/10% H2O/0.1% TFA, Gradient time=4 min., Flow rate=4 mL/min.).

reactant | Methyl 3-bromo-5-(bromomethyl)benzoate | 6.81 mmol, 2.1 g | BrC=1C=C(C(=O)OC)C=C(C1)CBr | C9H8Br2O2
reactant | tert-butyl 4-(hydroxymethyl)-4-phenylpiperidine-1-carboxylate | 6.2 mmol, 1.8 g | OCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=CC=C1 | C17H25NO3
reactant | sodium hydride | 12.4 mmol, 298 mg | [H-].[Na+]
reactant | lithium hydroxide monohydrate | 13.6 mmol, 0.54 g | O.[OH-].[Li+]
solvent | dimethylformamide | 21 mL | CN(C=O)C | C3H7NO
solvent | MeOH | CO | CH4O
product | 3-Bromo-5-(((1-(tert-butoxycarbonyl)-4-phenylpiperidin-4-yl)methoxy)methyl)benzoic acid | BrC=1C=C(C(=O)O)C=C(C1)COCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=CC=C1 | C25H30BrNO5
